US04629728
A mixture of 7.27 g of 5-{2-[4-(2-methoxyphenyl)piperazinyl]ethyl}-8-hydroxy quinoline in 150 ml of anhydrous tetrahydrofuran in the presence of 3.1 ml of triethylamine and 5 ml of pivaloyl chloride is stirred for 48 hours at room temperature. After evaporation of the tetrahydrofuran, the residue is taken up in chloroform and washed with a 10% NaHCO3 solution. After evaporation of the chloroform, a crystalline residue is obtained which is recrystallised in 80 ml of isopropanol. Finally, 6.45 g of 5-{2-[4-(2-methoxyphenyl)piperazinyl]ethyl}-8-pivaloyloxy quinoline are obtained melting at 115° C.

reactant | 5-{2-[4-(2-methoxyphenyl)piperazinyl]ethyl}-8-hydroxy quinoline | 7.27 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC1=C2C=CC=NC2=C(C=C1)O | C22H25N3O2
reactant | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 5 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-{2-[4-(2-methoxyphenyl)piperazinyl]ethyl}-8-pivaloyloxy quinoline | 6.45 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC1=C2C=CC=NC2=C(C=C1)OC(C(C)(C)C)=O | C27H33N3O3
